US05643872
c) Fmoc-Asp-Man(4-MBzl)
A mixture of Fmoc-Asp(O-tBu)-Man(4-MBzl) (3.5 g) and 50% TFA in methylene chloride (50 mL) was stirred at room temperature for 45 min. The solvent was evaporated and the product was precipitated by the addition of ether. The solid was collected and air dried to yield a white solid (2.23 g, 70%). mp 155°-156° C.

reactant | Fmoc-Asp(O-tBu) Man(4-MBzl) | 3.5 g | N([C@@H](CC(OC(C)(C)C)=O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12.OC1[C@@H](O)[C@@H](O)[C@H](OCC2=CC=C(C)C=C2)[C@H](O1)CO
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | Fmoc-Asp Man(4-MBzl) | 2.23 g, 70% | N([C@@H](CC(O)=O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12.OC1[C@@H](O)[C@@H](O)[C@H](OCC2=CC=C(C)C=C2)[C@H](O1)CO | InChI=1S/C19H17NO6.C14H20O6/c21-17(22)9-16(18(23)24)20-19(25)26-10-15-13-7-3-1-5-11(13)12-6-2-4-8-14(12)15;1-8-2-4-9(5-3-8)7-19-13-10(6-15)20-14(18)12(17)11(13)16/h1-8,15-16H,9-10H2,(H,20,25)(H,21,22)(H,23,24);2-5,10-18H,6-7H2,1H3/t16-;10-,11-,12+,13-,14?/m01/s1
